US07635698B2
Mixture of (3R,4R; 3S,4S)-(4-Chloro-phenyl)-{3-hydroxy-4-[4-(2-trifluoromethyl-phenyl)-piperazin-1-yl]-pyrrolidin-1-yl}-methanone
The title compound is prepared essentially as described in Example 39 using a mixture of (3R,4R; 3S,4S)-4-[4-(2-trifluoromethyl-phenyl)-piperazin-1-yl]-pyrrolidin-3-ol bistrifluoroacetate (27 mg, 0.05 mmol) and 4-chloro-benzoic acid (7.8 mg, 0.05 mmol), instead of diphenyl acetic acid, preactivated by addition of a solution of HATU in DMF (0.1 mL, 0.05 mmol, 0.5 M), followed by the addition of a solution of DIPEA in DMF (0.1 mL, 0.05 mmol, 1.5 M), to yield 0.9 mg of the title compound as the trifluoroacetate salt. ESIMS ([M+H]+): 454.1 (100).

reactant | 4-chloro-benzoic acid | 0.05 mmol, 7.8 mg | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | diphenyl acetic acid | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 0.05 mmol, 0.5 M, 0.1 mL | CN(C)C=O | C3H7NO
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 0.05 mmol, 1.5 M, 0.1 mL | CN(C)C=O | C3H7NO
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | (4-Chloro-phenyl)-{3-hydroxy-4-[4-(2-trifluoromethyl-phenyl)-piperazin-1-yl]-pyrrolidin-1-yl}-methanone | 0.9 mg | ClC1=CC=C(C=C1)C(=O)N1CC(C(C1)N1CCN(CC1)C1=C(C=CC=C1)C(F)(F)F)O | C22H23ClF3N3O2
